US04853389
Step (8) Preparation of 2-(Methylamino)-N-[[(1-methylethyl)amino]carbonyl]-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide
N-[[(1-Methylethyl)amino]carbonyl]-4-[(3-methylphenyl)amino]-2-(methylsulfinyl)-5-pyrimidinesulfonamide (1.39 g, 3.38 mmol) was suspended in water (20 mL) and aqueous methylamine (6 mL, 40 wt % in H2O) was added to form a homogeneous solution. The mixture was stirred for five hours at 45° C., then diluted with an equal volume of ethanol and the solvents removed under reduced pressure to give a solid residue. The residue was suspended in water (20 mL) and 1.0N sodium hydroxide was added until the solution became homogeneous. Aqueous acetic acid 10% was added dropwise to form a white solid precipitate. The solid was filtered, washed three times, and dried in a vacuum oven at 75° C. overnight to yield 1.12 g (2.96 mmol, 88%) of pure product, m.p. 206°-207° C., as a white solid.

reactant | N-[[(1-Methylethyl)amino]carbonyl]-4-[(3-methylphenyl)amino]-2-(methylsulfinyl)-5-pyrimidinesulfonamide | 3.38 mmol, 1.39 g | CC(C)NC(=O)NS(=O)(=O)C=1C(=NC(=NC1)S(=O)C)NC1=CC(=CC=C1)C | C16H21N5O4S2
reactant | methylamine | 6 mL | CN | CH5N
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | 2-(Methylamino)-N-[[(1-methylethyl)amino]carbonyl]-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide | 2.96 mmol, 1.12 g, 88% | CNC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)S(=O)(=O)NC(=O)NC(C)C | C16H22N6O3S
